US05821246
Using an analogous procedure to that described in Example 22, a mixture of 4-[3-fluoro-4-(1-methylimidazol-2-ylthio)anilino]-6-hydroxyquinazoline was reacted with 1,2-dibromoethane to give 6-(2-bromoethoxy)-4-[3-fluoro-4-(1-methylimidazol-2-ylthio)anilino]quinazoline in 45% yield;

reactant | 4-[3-fluoro-4-(1-methylimidazol-2-ylthio)anilino]-6-hydroxyquinazoline | FC=1C=C(NC2=NC=NC3=CC=C(C=C23)O)C=CC1SC=1N(C=CN1)C | C18H14FN5OS
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 6-(2-bromoethoxy)-4-[3-fluoro-4-(1-methylimidazol-2-ylthio)anilino]quinazoline | 45% yield | BrCCOC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)SC=1N(C=CN1)C)F | C20H17BrFN5OS
